US07494992B2
Preparation 161: 2-[(1-methylethyl)oxy]ethyl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To methyl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a-,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 118, 0.20 g, 0.67 mmol) was added toluene (10 ml) titanium (IV) ethoxide (0.07 ml) and 2-isopropoxy ethanol. The reactants were stirred together and then heated under reflux for 1 h, before concentrating in vacuo. The crude residue was purified using a Sep Pak cartridge eluting with hexane and then hexane:ethyl acetate (50:50). Further purification by preparative HPLC was performed using a Magellan column 212×150 mm, flow rate 20 ml/min, eluting with a gradient of water:acetonitrile (55:45 to 90:10) over 8 min to yield the title compound (63.9 mg).

reactant | methyl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a-,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.67 mmol, 0.20 g | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)OC)O | C13H15ClN2O4
reactant | 2-isopropoxy ethanol | C(C)(C)OCCO | C5H12O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(1-methylethyl)oxy]ethyl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 63.9 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)OCCOC(C)C)O | C17H23ClN2O5
